US05998433
a) Synthesis of N,N-diethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 1.647 g (4.502 mmol) of 6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 30 ml of acetic acid, 0.56 ml (5.40 mmol) of diethylamine and 0.44 g (5.40 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 2 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=9/1) to yield the desired product.

reactant | 6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 4.502 mmol, 1.647 g | ClC1=CC=C(C(=O)C2=CC=C(C(=O)N3CC4=C(CC3)C=CO4)C=C2)C=C1 | C21H16ClNO3
reactant | diethylamine | 5.40 mmol, 0.56 ml | C(C)NCC | C4H11N
reactant | formaldehyde | 5.40 mmol, 0.44 g | C=O | CH2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N,N-diethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | C(C)N(CC)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)=O)O1 | C26H27ClN2O3
